US06613772B1
2-(4-Chlorophenyl)-4-chloro-6,7,8-trimethoxyquinazoline (Intermediate)
18.2 g of 2-(4-chlorophenyl)-hydroxy-6,7,8-trimethoxyquinazoline were heated at 100° C. for 3 h in 120 ml of phosphorus oxychloride. The excess phosphorus oxychloride was distilled off and the oily residue was stirred with ice water. The solid was filtered off with suction and dried under reduced pressure. Yield: 15.0 g. M.p.: 159° C.

reactant | 2-(4-chlorophenyl)-hydroxy-6,7,8-trimethoxyquinazoline | 18.2 g | ClC1=CC=C(C=C1)C1=NC2=C(C(=C(C=C2C(=N1)O)OC)OC)OC | C17H15ClN2O4
reactant | phosphorus oxychloride | 120 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2-(4-Chlorophenyl)-4-chloro-6,7,8-trimethoxyquinazoline | ClC1=CC=C(C=C1)C1=NC2=C(C(=C(C=C2C(=N1)Cl)OC)OC)OC | C17H14Cl2N2O3
